US07595327B2
According to the procedure of Example 24, Step 3, 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid (0.6 g, 1.35 mmol) and hydroxylamine afforded (3S,4R)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid hydroxyamide as an amorphous white solid (0.07 g, 11%) after HPLC purification, eluting with acetonitrile:water. MS: 458 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid | 1.35 mmol, 0.6 g | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(COC1)C(=O)O | C22H22N2O6S
reactant | hydroxylamine | NO | H3NO
product | (3S,4R)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-furan-3-carboxylic acid hydroxyamide | 0.07 g, 11% | ONC(=O)[C@@H]1COC[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C22H23N3O6S
